US06589978B2
(2RS,5SR)-[1-(4-Ethyl-benzenesulfonyl)-5-(4-fluoro-phenyl)-pyrrolidin-2-yl]-methanol
The title compound, pale yellow oil, MS: m/e=363 (M+) was prepared in accordance with the general methods of example 1d and 84a from methyl (2RS,5SR)-5-(4-fluoro-phenyl)-pyrrolidine-2-carboxylate and 4-ethyl-benzenesulfonyl chloride and subsequent reduction of methyl (2RS,5SR)-5-(4-fluoro-phenyl)-1-(4-ethyl-benzenesulfonyl)-pyrrolidine-2-carboxylate with lithium aluminum hydride according to the general method of example 2.

reactant | methyl (2RS,5SR)-5-(4-fluoro-phenyl)-pyrrolidine-2-carboxylate | FC1=CC=C(C=C1)C1CCC(N1)C(=O)OC | C12H14FNO2
reactant | 4-ethyl-benzenesulfonyl chloride | C(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H9ClO2S
reactant | methyl (2RS,5SR)-5-(4-fluoro-phenyl)-1-(4-ethyl-benzenesulfonyl)-pyrrolidine-2-carboxylate | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)CC)C(=O)OC | C20H22FNO4S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | (2RS,5SR)-[1-(4-Ethyl-benzenesulfonyl)-5-(4-fluoro-phenyl)-pyrrolidin-2-yl]-methanol | C(C)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1C1=CC=C(C=C1)F)CO | C19H22FNO3S
